US08124628B2
Step A: Preparation of 3-(1-butoxyvinyl)-6-chloropyridazine (i-5a)
THF (24.0 mL) was added rapidly dropwise to tert-butyllithium (150 mL of a 1.7 M solution in pentane) at −78° C. After 15 min, n-butyl vinyl ether (14.0 mL, 109.4 mmol) was added, and the resulting mixture was warmed to −30° C., at which point modest gas evolution was observed. As gas evolution ceased, a second portion of n-butyl vinyl ether (14.0 mL, 109.4 mmol) was added, maintaining the reaction temperature at −30° C. After gas evolution had ceased, the reaction mixture was cooled to −78° C., and a solution of zinc chloride (29.8 g, 219 mmol) in THF (250 mL) was added rapidly dropwise. After 15 min, the reaction was warmed to −10° C. and transferred via cannula to a stirred solution of 3,6-dichloropyridazine (32.6 g, 219 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (16.0 g, 21.9 mmol) in THF (200 mL) at 0° C. After 1 h at 0° C., the reaction mixture was diluted with EtOAc and filtered through a short column of CELITE®, eluting with EtOAc. The filtrate was washed with water and brine, dried (sodium sulfate), and concentrated in vacuo. The crude residue was purified by flash chromatography on silica gel (gradient elution; 0%-15% EtOAc/hexanes as eluent) to afford the title compound i-5a. 1HNMR (500 MHz, CDCl3): δ 7.80 (d, 1H, J=8.9 Hz), 7.52 (d, 1H, J=8.9 Hz), 5.76 (d, 1H, J=2.5 Hz), 4.55 (d, 1H, J=2.5 Hz), 3.97 (t, 2H, J=6.4 Hz), 1.83 (m, 2H), 1.57 (m, 2H), 1.02 (t, 3H, J=7.5 Hz).

reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | n-butyl vinyl ether | 109.4 mmol, 14.0 mL | C(=C)OCCCC | C6H12O
reactant | n-butyl vinyl ether | 109.4 mmol, 14.0 mL | C(=C)OCCCC | C6H12O
reactant | 3,6-dichloropyridazine | 219 mmol, 32.6 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
solvent | pentane | CCCCC | C5H12
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | zinc chloride | 219 mmol, 29.8 g | [Cl-].[Zn+2].[Cl-]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 21.9 mmol, 16.0 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | THF | 24.0 mL | C1CCOC1 | C4H8O
product | 3-(1-butoxyvinyl)-6-chloropyridazine | C(CCC)OC(=C)C=1N=NC(=CC1)Cl | C10H13ClN2O
